US04419357
To a warm solution of 28 g of 5-aminotetrazole monohydrate in 300 ml of tetrahydrofuran and 15 ml of water was added 26.7 g of 2-methyl-6-nitrobenzoyl chloride in 50 ml of tetrahydrofuran. The solution was allowed to stand for 16 hours, the solvent was evaporated and the residue was treated with water. The solid obtained was separated by filtration, slurried with ether and again separated by filtration to give 2-methyl-6-nitro-N-(1H-tetrazol-5-yl)benzamide melting at about 230°-232° C.

reactant | 5-aminotetrazole monohydrate | 28 g | O.NC1=NN=NN1
reactant | 2-methyl-6-nitrobenzoyl chloride | 26.7 g | CC1=C(C(=O)Cl)C(=CC=C1)[N+](=O)[O-] | C8H6ClNO3
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | water | 15 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-methyl-6-nitro-N-(1H-tetrazol-5-yl)benzamide | CC1=C(C(=O)NC2=NN=NN2)C(=CC=C1)[N+](=O)[O-] | C9H8N6O3
